US05064840
To a stirred solution of oxalyl chloride (0.51 ml, 0.74 g, 5.8 mmol) in dichloromethane (13 ml) at -78° C. under argon was added dimethylsulfoxide (0.91 g, 12 mmol) in dichloromethane (2.5 ml) at such a rate as to keep the temperature below -50° C. After stirring 20 minutes at -78° C., α-[1-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-4-piperidinyl]-lH-benzimidazole-2-methanol (2.3 g, 5.2 mmol) was added in dichloromethane (20 ml), dropwise, via syringe. After an additional 20 minutes of stirring at -78° C., triethylamine (3.0 ml, 22 mmol) was added, the cooling bath was removed, and the solution was allowed to stir for 1 hour. Water was added, the layers separated, and the aqueous layer extracted with dichloromethane. The combined organic layers were dried (MgSO4), and filtered through a pad of silica (eluting with acetone). The eluent was concentrated to give a white foam. The foam was dissolved in methanol (50 ml), treated with 10% hydrochloric acid, and stirred for 3 hours. The solution was neutralized with 5% sodium bicarbonate, concentrated, and extracted twice with dichloromethane. The combined organic layers were dried (MgSO4), concentrated, and the resulting solid recrystallized from ethyl acetate to afford 4-[4-(lH-benzimidazol-2-yl-carbonyl)-1-piperidinyl]-1-(4-fluorophenyl)-1-butanone as an off-white solid m.p. 155-156° C.

reactant | oxalyl chloride | 5.8 mmol, 0.51 ml, 0.74 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 12 mmol, 0.91 g | CS(=O)C | C2H6OS
reactant | α-[1-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-4-piperidinyl]-lH-benzimidazole-2-methanol | 5.2 mmol, 2.3 g | FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCC(CC1)C(O)C1=NC2=C(N1)C=CC=C2 | C25H30FN3O3
reactant | triethylamine | 22 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | 4-[4-(lH-benzimidazol-2-yl-carbonyl)-1-piperidinyl]-1-(4-fluorophenyl)-1-butanone | N1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)F | C23H24FN3O2
